US04958026
Under argon, 750 mg of N-[2-(3-hydroxy-7-methoxy-1H-indazol-4-yl]trifluoroacetamide is heated to 120° C. with 5 ml of aqueous hydrogen bromide (65%) for 2 hours. The crystallized product is recrystallized from methanol/diethyl ether, yielding 680 mg of 2-(3,7-dihydroxy-1H-indazol-4-yl)ethylamine, hydrobromide, decomposition point 270°-273° C.

reactant | 2-(3-hydroxy-7-methoxy-1H-indazol-4-yl]trifluoroacetamide | OC1=NNC2=C(C=CC(=C12)C(C(=O)NF)(F)F)OC | C10H8F3N3O3
reactant | hydrogen bromide | 5 ml | Br | BrH
product | 2-(3,7-dihydroxy-1H-indazol-4-yl)ethylamine, hydrobromide | 680 mg | Br.OC1=NNC2=C(C=CC(=C12)CCN)O | InChI=1S/C9H11N3O2.BrH/c10-4-3-5-1-2-6(13)8-7(5)9(14)12-11-8;/h1-2,13H,3-4,10H2,(H2,11,12,14);1H
